US07855218B2
(5R)-5-{4-[(Phenylmethyl)oxy]phenyl}-L-prolinamide hydrochloride (E3)
To a solution of 1,1-dimethylethyl (2S,5R)-2-(aminocarbonyl)-5-(4-[(phenylmethyl)oxy]phenyl)-1-pyrrolidinecarboxylate (D12, 45 mg, 0.113 mmol) in a mixture of ethyl acetate and methanol (9/1, 1 ml) was added acetyl chloride (20 μl, 0.282 mmol) at 0° C. The mixture was shaken for 1.5 h and slowly allowed to warm to room temperature. After 4 h under these conditions, additional acetyl chloride (20 μl, 0.654 mmol) was added. After evaporating the solvent, the residue was triturated with diethyl ether to afford the title compound as a white solid (25 mg, 66%); Rt (HPLC): 3.55 min; 1H NMR (300 MHz, DMSO-d6) δ (ppm): 10.50 (bs, 1H); 8.15 (bs, 1H); 8.05 (s, 1H); 7.73 (s, 1H); 7.42-7.49 (m, 4H); 7.40 (t, 2H); 7.30-7.36 (m, 1H); 7.08 (d, 2H); 5.15 (s, 2H); 4.60 (dd, 1H); 4.30 (dd, 1H); 2.23-2.40 (m, 2H); 2.10-2.20 (m, 1H); 1.95-2.08 (m, 1H).

reactant | 1,1-dimethylethyl (2S,5R)-2-(aminocarbonyl)-5-(4-[(phenylmethyl)oxy]phenyl)-1-pyrrolidinecarboxylate | 0.113 mmol, 45 mg | NC(=O)[C@H]1N([C@H](CC1)C1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C23H28N2O4
reactant | acetyl chloride | 0.282 mmol, 20 μl | C(C)(=O)Cl | C2H3ClO
reactant | acetyl chloride | 0.654 mmol, 20 μl | C(C)(=O)Cl | C2H3ClO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 1 ml | CO | CH4O
product | (5R)-5-{4-[(Phenylmethyl)oxy]phenyl}-L-prolinamide hydrochloride | 25 mg, 66% | Cl.C1(=CC=CC=C1)COC1=CC=C(C=C1)[C@H]1CC[C@H](N1)C(=O)N | InChI=1S/C18H20N2O2.ClH/c19-18(21)17-11-10-16(20-17)14-6-8-15(9-7-14)22-12-13-4-2-1-3-5-13;/h1-9,16-17,20H,10-12H2,(H2,19,21);1H/t16-,17+;/m1./s1
